US08487108B2
The (S)-tert-butyl 2,2-dimethyl-4-(((R,Z)-2,3,4,7-tetrahydrooxepin-3-yl)methyl)oxazolidine-3-carboxylate was dissolved in EtOH, followed by the addition of Raney Ni. The mixture was hydrogenated at rt for 3 h. The catalyst was filtered off and the filtrate was concentrated under reduced pressure to afford (S)-tert-butyl 2,2-dimethyl-4-((R)-oxepan-3-ylmethyl)oxazolidine-3-carboxylate (408 mg, 72%).

reactant | (S)-tert-butyl 2,2-dimethyl-4-(((R,Z)-2,3,4,7-tetrahydrooxepin-3-yl)methyl)oxazolidine-3-carboxylate | CC1(OC[C@@H](N1C(=O)OC(C)(C)C)C[C@@H]1COC\C=C/C1)C | C17H29NO4
solvent | EtOH | CCO | C2H6O
catalyst | Ni | [Ni] | Ni
product | (S)-tert-butyl 2,2-dimethyl-4-((R)-oxepan-3-ylmethyl)oxazolidine-3-carboxylate | 408 mg, 72% | CC1(OC[C@@H](N1C(=O)OC(C)(C)C)C[C@@H]1COCCCC1)C | C17H31NO4
